US04883815
To a suspension of 5.09 g (0.015 mol) of 4-(4-aminobutyryl)-8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline in 50 ml of methylene chloride are added 5 ml (0.036 mol) of triethylamine and then at 0° 1.33 ml (0.019 mol) of acetyl chloride dissolved in 15 ml of methylene chloride, and the mixture is stirred at room temperature for 1 hour. Then, the mixture is extracted with methylene chloride/water, dried with magnesium sulfate and the solvent is distilled in a vacuum. Crystallization from methylene chloride/ether, chromatography on silica gel with ethyl acetate/methanol (9:1) and renewed crystallization from methylene chloride/ether gives N-[4-[8-chloro-2,3,5,6,-tetrahydrobenzo[f]quinolin-4(1H)-yl]-4-oxobutyl]acetamide as white crystals with melting point 142°-143°.

reactant | 4-(4-aminobutyryl)-8-chloro-1,2,3,4,5,6-hexahydrobenzo[f]quinoline | 0.015 mol, 5.09 g | NCCCC(=O)N1CCCC=2C3=C(CCC12)C=C(C=C3)Cl | C17H21ClN2O
reactant | triethylamine | 0.036 mol, 5 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.019 mol, 1.33 ml | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | N-[4-[8-chloro-2,3,5,6,-tetrahydrobenzo[f]quinolin-4(1H)-yl]-4-oxobutyl]acetamide | ClC1=CC2=C(C=3CCCN(C3CC2)C(CCCNC(C)=O)=O)C=C1 | C19H23ClN2O2
